US04452987
17.9 g (0.089 mol) of 2 guanidino-4-thiazole carboxylic acid hydrazide was combined with 24.9 g of 2-methyl-2-thiopseudourea sulfate (0.089 mol) and heated rapidly to reflux in 125 ml dimethylsulfoxide. The reactants dissolved and within 5 minutes reflux a heavy precipitate formed. Reflux was continued for a total of 30 minutes. The reaction was cooled and the resulting heavy precipitate was isolated by filtration and washed with a small portion of dimethylsulfoxide followed by washing with isopropyl alcohol and ether. The resulting solid was dried in vacuo to give 34.6 g of 2-guanidino-4-thiazole carboxylic acid 2-amidinohydrazide containing some occluded dimethylsulfoxide.

reactant | guanidino-4-thiazole carboxylic acid hydrazide | N(C(=N)N)C=1SC=C(N1)C(=O)NN | C5H8N6OS
reactant | 2-methyl-2-thiopseudourea sulfate | 0.089 mol, 24.9 g | S(=O)(=O)(O)O.CSC(N)=N
solvent | dimethylsulfoxide | 125 ml | CS(=O)C | C2H6OS
product | 2-guanidino-4-thiazole carboxylic acid 2-amidinohydrazide | 34.6 g | C(N)(=N)NNC(=O)C=1N=C(SC1)NC(=N)N | C6H10N8OS
